Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
albumin colloid, human / ceftriaxone
 
Attending: ___
 
Chief Complaint:
alcoholic hepatitis 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 Patient is a ___ recovering alcoholic who initially 
presented to ___ with sudden onset of nausea, vomiting on 
___ and found to have alcoholic hepatitis and was thus 
transferred to ___ for further care. 
 
 She recently graduated from a women's alcoholic treatment 
program and had been clean for about 3 months. She then again 
resumed drinking vodka one to 2 times daily for the last 4 days 
(last drink ___, she has been drinking on a daily basis. She 
experienced gradual worsening of abdominal pain which started at 
9:30 pm the night prior to admission to ___. The pain was 
periumbilical, aching, constant, 10 out of 10 in intensity. It 
was also associated with nausea and vomiting. No hematemesis 
reported. She had ___ loose stools associated with this, 
nonbloody as well. No fever chills. No recent antibiotics or 
hospitalizations. No new medications.  

 At ___, she developed acute alcohol withdrawal 
necessitating CIWA scale, hypoglycemia with a nadir of 18, 
hyponatremia with nadir of 127, and worsening LFTs / INR and 
acute on chronic anemia with nadir of 8.9 without evidence of 
active bleed. She also had significant lactic acidosis to 13 
with tachypnea and respiratory alkalosis on blood gas. She was 
given IVF, with changes in IVF based on progressive metabolic 
acidosis and hypoglycemia. She was found to have an E.coli UTI 
and was started on ceftriaxone ___. Her coagulopathy was treated 
with one dose of vitamin K (10 mg PO). She remained alert and 
oriented but did have some asterixis on examination today per 
report. Given her worsening labs, she was transferred to ___ 
for further care.  

She was then transferred to ___ for further care.  

Upon arrival to the floor she triggered for tachypnea.  

 She had been potentially getting slightly more confused over 
the preceding two hours, but not significantly so. Was found to 
be acutely dyspneic, diaphoretic with developing wheals 
diffusely along her back and arms and legs as well as bilateral 
periorbital edema. No frank stridor, but significant upper 
airway secretions. Responded to 50 mg IV Benadryl with improved 
secretions, and periorbital edema  

Had received Ativan magnesium, lactulose and IV albumin since 
arrival, but nothing within a few minutes of this event. Had 
been receiving ativan at ___. Seems like allergic 
reaction/anaphylaxis, but absolutely unclear what the reaction 
was to. Given persistent 1:1 nursing care requirements and need 
for respiratory monitoring, care escalated to ICU.  
 
Past Medical History:
- alcohol abuse 
- depression, previous suicide attempt > 6 months ago 
- history of alcohol withdrawal with one seizure in ___  
- recent diagnosis of multiple sclerosis by a neurologist in 
___, is trying to get interferon-beta-1a treatment  
- anxiety
- optic neuritis
 
Social History:
___
Family History:
- alcohol abuse  
- diabetes (father)  
- no known liver disease  
 
Physical Exam:
===============
ADMISSION EXAM:
===============
VS: 98.9 125/84 113 18 100% RA  
General: tremulous and diaphoretic but alert and interactive, 
denies acute distress  
HEENT: scleral and sublingual icterus noted, no oropharyngeal 
lesions, MM dry  
Neck: no adenopathy or JVD  
CV: tachycardic but regular, no m/r/g  
Lungs: shallow respirations, no adventitious sounds appreciated  

Abdomen: nontender, mildly distended, +BS, no organomegaly 
appreciated  
GU: deferred  
Ext: WWP, no edema  
Neuro: AO to person, place, month, day, year, can state days of 
week backwards without difficulty, PERRL, mild tongue 
fasciculations with protrusion, mild fasciculations of 
outstretched hands without flapping, grip is intact without loss 
of flexor tone, rest of motor function intact, sensation intact 
to light touch  
Skin: no palmar erythema or spider angiomas  

===============
DISCHARGE EXAM:
===============
VS: 98.7   100-120/60-80s  ___  ___ (8 hr)  ___ 8 BM 
(24)
 General: NAD, 
 CV: regular, no m/r/g  
 Lungs: CTA x 2 
 Abdomen: tenderness to deep palpation in LUQ and epigastrium, 
mildly distended, +BS, liver ___ngle, nontender
 GU: deferred  
 Ext: WWP, no edema  
 Neuro: no asterisix, A&Ox3 

 
Pertinent Results:
===============
ADMISSION LABS:
===============
___ 08:19PM   ___ PO2-166* PCO2-22* PH-7.49* TOTAL 
CO2-17* BASE XS--3 COMMENTS-GREEN TOP
___ 08:19PM   LACTATE-9.2*
___ 08:05PM   GLUCOSE-121* UREA N-3* CREAT-0.4 SODIUM-130* 
POTASSIUM-3.7 CHLORIDE-95* TOTAL CO2-16* ANION GAP-23
___ 08:05PM   estGFR-Using this
___ 08:05PM   ALT(SGPT)-40 AST(SGOT)-130* ALK PHOS-148* TOT 
BILI-6.3*
___ 08:05PM   ALBUMIN-3.1* CALCIUM-9.2 PHOSPHATE-0.3* 
MAGNESIUM-1.7
___ 08:05PM   WBC-9.6 RBC-3.09* HGB-8.2* HCT-25.9* MCV-84 
MCH-26.5 MCHC-31.7* RDW-20.9* RDWSD-62.4*
___ 08:05PM   NEUTS-72.2* LYMPHS-11.8* MONOS-13.5* EOS-1.5 
BASOS-0.2 IM ___ AbsNeut-6.91* AbsLymp-1.13* AbsMono-1.29* 
AbsEos-0.14 AbsBaso-0.02
___ 08:05PM   ___ PTT-35.1 ___
___ 08:05PM   PLT COUNT-119*

==================
PERTINENT RESULTS:
==================
___ 04:49AM BLOOD Lactate-1.7
___ 10:15PM BLOOD Lactate-3.3*
___ 01:36PM BLOOD Lactate-4.3*
___ 04:29AM BLOOD Lactate-4.2*
___ 02:29AM BLOOD Lactate-4.6*
___ 06:34PM BLOOD Lactate-7.5*
___ 09:19AM BLOOD Lactate-7.1*
___ 08:19PM BLOOD Lactate-9.2*

===============
DISCHARGE LABS:
===============

___ 05:50AM BLOOD WBC-9.1 RBC-2.86* Hgb-7.7* Hct-25.0* 
MCV-87 MCH-26.9 MCHC-30.8* RDW-27.9* RDWSD-85.0* Plt ___
___ 05:50AM BLOOD Plt ___
___ 05:50AM BLOOD ___ PTT-44.4* ___
___ 05:50AM BLOOD Glucose-97 UreaN-6 Creat-0.5 Na-134 K-4.6 
Cl-100 HCO3-25 AnGap-14
___ 05:50AM BLOOD ALT-36 AST-82* AlkPhos-137* TotBili-4.8*
___ 05:50AM BLOOD Calcium-9.5 Phos-3.9 Mg-2.0

===============
IMAGING
===============
CXR portable ___ 
Subtle opacification at the right medial base, which may 
represent overlapping vessels, however a pneumonia cannot be 
excluded. 
  
RECOMMENDATION:  PA and lateral radiographs may help to 
differentiate between overlapping vessels and pneumonia. 
 
RUQ US ___
1. Echogenic liver consistent with steatosis. Other forms of 
liver disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded 
on the basis of this examination. 
2. The portal vein is patent. 
3. Splenomegaly is mild. 

CXR  ___  
In comparison with the study of ___, the patient has taken a 
better 
inspiration.  There is no evidence of acute pneumonia, vascular 
congestion, or pleural effusion at this time. 

===============
MICRO
===============
___ BLOOD CULTURE Blood Culture, Routine-FINAL NO GROWTH
___ URINE URINE CULTURE-NO GROWTH
___ BLOOD CULTURE Blood Culture, Routine-NO GROWTH
___ BLOOD CULTURE Blood Culture, Routine-NO GROWTH
___ IMMUNOLOGY HCV VIRAL LOAD-NOT DETECTABLE
___ BLOOD CULTURE Blood Culture, Routine-NO GROWTH
___ PERITONEAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-FINAL; ANAEROBIC CULTURE-FINAL INPATIENT NO GROWTH
___ MRSA SCREEN MRSA SCREEN-FINAL negative

 
Brief Hospital Course:
___ with recent diagnosis of multiple sclerosis not on therapy, 
alcoholic hepatitis admitted for ___ 10 initially for acute 
management of alcoholic hepatitis and was transferred to ICU due 
to anaphylactic reaction. 

# Anaphylaxis: Possible culprits included ceftriaxone, albumin, 
ingested foods. Albumin initially appeared most likely given the 
time course of the event. She was administered IV Benadryl, 
Solumedrol, Famotidine, albuterol, and Epi Pen. There was no 
indication for mechanical airway. The patient was transferred to 
the MICU for close observation. She was monitored on telemetry, 
with PRN nebulizers, and stabilized. Antibiotic regimen was 
switched to ciprofloxacin. Allergy was consulted, with 
recommendation: no albumin unless life threatening situation and 
absolutely require it, avoid all cephalosporins. She may take 
other penicillin and other beta lactams if necessary at this 
time. Patient has follow up with Allergy for patch testing. 

# Alcoholic hepatitis: Manifested by AST>ALT liver injury in 
setting of alcohol abuse relapse. Transaminases improved during 
hospitalization, and RUQ U/S was obtained which was negative for 
evidence of portal vein thrombosis or ascites. Liver function 
was monitored, as were coags. She was placed on delirium and 
fall precautions, She was given lactulose for hepatic 
encephalopathy. As DF 19 on presentation, steroids deferred, and 
she was given aggressive nutritional support and LFTs were 
trended until Tbili trended down and was stable x 3 days. Tbili 
on discharge = 4.8. 

# Tachypnea: Tachypnea was attributed to a range of factors, 
including anaphylaxis, lactic acidosis upon presentation, 
alcohol withdrawal, and nicotine withdrawal. VBG showed 
metabolic acidosis and respiratory alkalosis, without evidence 
of respiratory muscle fatigue. Tachypnea improved with treatment 
of the above. 

# Lactic Acidosis: Initial reason for elevated lactate not 
entirely clear, but could be due to UTI and/or volume depletion 
in setting of alcohol abuse and liver injury. Lactate 
downtrended with treatment of the above. 

# Hepatic encephalopathy: Grade I. Ammonia 71 at ___. 
Mental status intermittently confused with very mild asterixis. 
Lactulose 30mL TID was given, with titration to ___ bowel 
movements per day. Electrolytes were repleted as indicated.

# Urinary tract infection: U/A upon presentation was concerning 
for urinary tract infection, with cultures growing E coli. The 
patient was initially started on ceftriaxone, but out of concern 
for anaphylaxis was transitioned to ciprofloxacin (7 day course, 
last day ___. 

# Depression: Patient was maintained on Celexa, which was held 
at ___ in setting of liver injury, administration could 
cause QTc prolongation. Celexa was held while in the ICU.

Transitional Issues
- patient will need blood drawn for Chem10, LFTs, CBC, INR on 
___ and the results sent to ___ ATTN: Dr. ___.
- patient started on lactulose 30 mL BID for grade 1 hepatic 
encephalopathy 
- folic acid for nutritional support. Continue Ensure TID. 
- patient seen by social work w/ discussion re: importance of 
abstaining from alcohol. Please continue this discussion as an 
outpatient. 
- patient with anaphylactic reaction w/ possible culprits being 
ceftriaxone and albumin. Per Allergy and Immunology--no albumin 
unless life threatening situation and absolutely require it, 
avoid all cephalosporins. She may take other penicillin and 
other beta lactams if necessary at this time. Patient has follow 
up with Allergy for patch testing. 
- d/ced with 2 additional doses of phenobarbital taper

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Multivitamins 1 TAB PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Lactulose 30 mL PO BID 
RX *lactulose 10 gram/15 mL (15 mL) 30 mL by mouth twice daily 
Refills:*0
4. Citalopram 20 mg PO DAILY 
5. Outpatient Lab Work
ICD 10 K70.10 Alcoholic hepatitis 
Please draw: Chem10, LFTs, CBC, INR and fax to ___ 
ATTN: Dr. ___
6. PHENObarbital Alcohol Withdrawal Dose Taper (Days ___ 4 mg 
PO BID Duration: 2 Doses 
This is dose # 4 of 4 tapered doses
RX *phenobarbital 20 mg/5 mL 1 elixir(s) by mouth twice daily 
Disp ___ Milliliter Milliliter Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
-alcoholic hepatitis 
-anaphylaxis 
-alcohol abuse 
-urinary tract infection
-depression 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 
You were admitted to ___ with alcoholic hepatitis. You first 
came to the general medical floor but had an allergic reaction 
to albumin and you needed to spend a night in the intensive care 
unit for monitoring.  The Allergy specialists were consulted and 
recommend avoiding ceftriaxone (an antibiotic) and albumin (a 
fluid that is sometimes given to people with liver disease).  
You will need to see the Allergy specialists as an outpatient.  
You will also need to follow up with liver specialists. You will 
need labs drawn on ___ and the results will be faxed 
to your liver doctor. 

It is incredibly important that you abstain from alcohol because 
another episode of alcoholic hepatitis will likely kill you.

Please have labs drawn on ___ and the results sent to the 
___ at ___ (see prescriptions). 

It was a pleasure to care for you!
-Your ___ Team

 
Followup Instructions:
___